US05489570
A solution of 4-(3-cyclopropyl-1,3-dioxoprop-1-yl)-2,2-difluoro-1,3-benzodioxole (12.0 g) in dry toluene was treated with N,N-dimethylformamide dimethyl acetal and the mixture stirred overnight. After evaporation in vacuo and re-evaporation after addition of toluene the residue was recrystal from cyclohexane-ethanol to give 4-(3-cyclopropyl-2-dimethylaminomethylene-1,3-dioxopropyl)-2,2-difluoro-1,3-benzodioxole (6.5 g) as a pale yellow solid, m.p. 118°-119° C.

reactant | 4-(3-cyclopropyl-1,3-dioxoprop-1-yl)-2,2-difluoro-1,3-benzodioxole | 12.0 g | C1(CC1)C(CC(=O)C1=CC=CC=2OC(OC21)(F)F)=O | C13H10F2O4
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-cyclopropyl-2-dimethylaminomethylene-1,3-dioxopropyl)-2,2-difluoro-1,3-benzodioxole | 6.5 g | C1(CC1)C(C(C(=O)C1=CC=CC=2OC(OC21)(F)F)=CN(C)C)=O | C16H15F2NO4
